US07307094B2
Methyl 2-(4-methoxyphenyl)benzoxazole-7-carboxylate was prepared from methyl 3-aminosalicylate and 4-methoxybenzoyl chloride as described in Step A of Example 1. The crude material was suspended in thionyl chloride (15 mL) and the mixture heated to reflux overnight. After this time the reaction was cooled and concentrated to a dark oil. This oil was treated with methanol and the solution stirred at room temperature for 1 h. Subsequent concentration afforded a dark brown solid which was purified by column chromatography to afford a 24% yield of methyl 2-(4-methoxyphenyl)benzoxazole-7-carboxylate as a yellow solid: 1H NMR (500 MHz, DMSO-d6) δ 8.19 (d, J=8.7 Hz, 2H), 8.04 (d, J=7.8 Hz, 1H), 7.91 (d, J=7.8 Hz, 1H), 7.51 (t, J=7.8 Hz, 1H), 7.20 (d, J=8.7 Hz, 2H), 3.99 (s, 3H); 3.88 (s, 3H); MS (ESI) m/z 284 [M+H]+.

reactant | methyl 3-aminosalicylate | NC1=C(C(C(=O)OC)=CC=C1)O | C8H9NO3
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
product | methyl 2-(4-methoxyphenyl)benzoxazole-7-carboxylate | 24% yield | COC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2C(=O)OC | C16H13NO4
